US06921762B2
Step A: 2,6-bis(2-chloro(4-pyridyl))-4-chloro-5-(3-methylphenyl)pyrimidine
The title compound was synthesized from 2,6-bis(2-chloropyrid-4-yl)-3-methyl-5-(3-methylphenyl)-3H-pyrimidin-4-one in the same manner as 2-((1-methyl-1-phenylethyl)amino)-4-chloro-5-(4-fluorophenyl)-6-(4-pyridyl)pyrimidine.

reactant | 2,6-bis(2-chloropyrid-4-yl)-3-methyl-5-(3-methylphenyl)-3H-pyrimidin-4-one | ClC1=NC=CC(=C1)C1=NC(=C(C(N1C)=O)C1=CC(=CC=C1)C)C1=CC(=NC=C1)Cl | C22H16Cl2N4O
reactant | 2-((1-methyl-1-phenylethyl)amino)-4-chloro-5-(4-fluorophenyl)-6-(4-pyridyl)pyrimidine | CC(C)(C1=CC=CC=C1)NC1=NC(=C(C(=N1)Cl)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C24H20ClFN4
product | 2,6-bis(2-chloro(4-pyridyl))-4-chloro-5-(3-methylphenyl)pyrimidine | ClC1=NC=CC(=C1)C1=NC(=C(C(=N1)Cl)C1=CC(=CC=C1)C)C1=CC(=NC=C1)Cl | C21H13Cl3N4
